** sch_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/schematics/testbenches/current_mirror_switch_test.sch
**.subckt current_mirror_switch_test
XM1 net3 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM2 net6 net2 net3 net3 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM3 net1 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM4 net2 net2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
R1 I_main GND 1k m=1
XM5 net4 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM6 net5 net2 net4 net4 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
V2 B0 GND PULSE(0 1.8 0 100p 100p 500n 1u)
V3 B0_bar GND PULSE(1.8 0 0 100p 100p 500n 1u)
V4 B1 GND PULSE(0 1.8 0 100p 100p 1u 2u)
V5 B1_bar GND PULSE(1.8 0 0 100p 100p 1u 2u)
V7 V_in GND 1.8
V8 net5 net8 0
V1 net2 I_main 0
XM12 I_out_n B2_bar net7 net7 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM13 I_out_p B2 net7 net7 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
R4 net12 GND 1k m=1
V10 net6 net7 0
V11 I_out_n net13 0
V12 I_out_p net12 0
XM7 I_out_n B1_bar net8 net8 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM8 I_out_p B1 net8 net8 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
V6 B2 GND PULSE(0 1.8 0 100p 100p 2u 4u)
V9 B2_bar GND PULSE(1.8 0 0 100p 100p 2u 4u)
XM9 net9 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net10 net2 net9 net9 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V13 net10 net11 0
XM11 I_out_n B0_bar net11 net11 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM14 I_out_p B0 net11 net11 sky130_fd_pr__pfet_01v8 L=0.15 W=min_width*switch_multiplier nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R2 net13 GND 1k m=1
C3 I_out_p GND 2p m=1
**** begin user architecture code

.param min_width=0.6
.param switch_multiplier=0.8
.control
tran 1n 8u
write current_mirror_switch_test.raw
.endc
.end

.lib /home/david/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.end
